US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-(5-methyl-1H-imidazol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=348.5 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 4-methylimidazole-5-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-methylimidazole-5-carbaldehyde | CC=1N=CNC1C=O | C5H6N2O
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-(5-methyl-1H-imidazol-4-ylmethyl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NCC=1N=CNC1C | C20H21N5O
